US08048878B2
Synthesis of (4R*,10aS*)-4-(4-fluorophenyl)-1,3,4,7,8,10a-hexahydro-2H-pyrido[1,2-a]azepin-6-one
A solution of 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-4-penten-1-one (307 mg) and tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride (64 mg) in methylene chloride (150 mL) was heated under reflux for 25 hours. The reaction solution was left to cool to room temperature and then concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=4:1->ethyl acetate) to obtain 146 mg of the title compound. The property values of the compound are as follows.

reactant | 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-4-penten-1-one | 307 mg | FC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CCC=C)=O | C18H22FNO
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride | 64 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (4R*,10aS*)-4-(4-fluorophenyl)-1,3,4,7,8,10a-hexahydro-2H-pyrido[1,2-a]azepin-6-one | 146 mg | FC1=CC=C(C=C1)[C@H]1CCC[C@@H]2N1C(CCC=C2)=O | C16H18FNO
